US06242470B1
a) 5-Nitro-1H-indole-1-acetic acid, 1,1-dimethylethyl ester
Prepared according to the method of Example 15a) from 5-nitroindole (0.207 g) and 2-bromoaceticacid, 1,1 -diemthylethyl ester (0.23 ml) to leave sub-title compound as a yellow oily solid (0.29 g).

reactant | 5-nitroindole | 0.207 g | [N+](=O)([O-])C=1C=C2C=CNC2=CC1 | C8H6N2O2
reactant | 2-bromoaceticacid | BrCC(=O)O | C2H3BrO2
product | 5-Nitro-1H-indole-1-acetic acid, 1,1-dimethylethyl ester | 0.29 g | [N+](=O)([O-])C=1C=C2C=CN(C2=CC1)CC(=O)OC(C)(C)C | C14H16N2O4
